US04252698
SYNTHESIS EXAMPLE--1 Liquid overbased barium nonylphenolate
Nonylphenol 110 g (0.5 mole), toluene 80 g, octanol 20 g and barium oxide 115 g (0.75 mole) were stirred and treated with 13.5 g water. Reaction proceeded with exothermic heat, and was continued nder reflux for 1 hour. After cooling, the mixture was filtered and there was obtained a black-green liquid overbased barium nonylphenolate complex, which was analyzed to find barium: 28% metal ratio:6.

reactant | Nonylphenol | 0.5 mole, 110 g | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | toluene | 80 g | C1(=CC=CC=C1)C | C7H8
reactant | barium oxide | 0.75 mole, 115 g | [O-2].[Ba+2]
reactant | barium | [Ba] | Ba
solvent | water | 13.5 g | O | H2O
solvent | octanol | 20 g | C(CCCCCCC)O | C8H18O
product | barium nonylphenolate | C(CCCCCCCC)C1=C(C=CC=C1)[O-].[Ba+2].C(CCCCCCCC)C1=C(C=CC=C1)[O-] | InChI=1S/2C15H24O.Ba/c2*1-2-3-4-5-6-7-8-11-14-12-9-10-13-15(14)16;/h2*9-10,12-13,16H,2-8,11H2,1H3;/q;;+2/p-2
